US05219886
(S)-ISOSERINE ETHYL ESTER, HYDROCHLORIDE
At 0°-5°, add thionyl chloride (2.80 ml) dropwise to N-(4-methoxybenzyloxycarbonyl)-(S)-isoserine (5.0 g) in absolute ethanol (100 ml). Heat the mixture under reflux for 1 hour and stir for 20 hours at room temperature. Concentrate the reaction mixture in vacuo and pour the reaction mixture into diethyl ether (300 ml), and filter the solid. Wash the solid with diethyl ether and dry in vacuo to give the title compound, an amber oil, [α]D26 =-19.8° (MeOH).

reactant | thionyl chloride | 2.80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4-methoxybenzyloxycarbonyl)-(S)-isoserine | 5.0 g | COC1=CC=C(COC(=O)NC[C@H](O)C(=O)O)C=C1 | C12H15NO6
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | (S)-ISOSERINE ETHYL ESTER, HYDROCHLORIDE | Cl.C(C)OC([C@H](CN)O)=O | InChI=1S/C5H11NO3.ClH/c1-2-9-5(8)4(7)3-6;/h4,7H,2-3,6H2,1H3;1H/t4-;/m0./s1
